US05366987
Synthesis of ethyl 5-dodecyl-2H-tetrazole-2-acetate
When in the general procedure of Example 71 an appropriate amount of 5-dodecyl-1H-tetrazole was substituted for 5-decyl-1H-tetrazole and an appropriate amount of ethyl bromoacetate was substituted for ethyl 2-bromophenylacetate, the title compound was obtained, mp 38°-40° C.

reactant | 5-dodecyl-1H-tetrazole | C(CCCCCCCCCCC)C1=NN=NN1 | C13H26N4
reactant | 5-decyl-1H-tetrazole | C(CCCCCCCCC)C1=NN=NN1 | C11H22N4
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
reactant | ethyl 2-bromophenylacetate | BrC1=C(C=CC=C1)CC(=O)OCC | C10H11BrO2
product | ethyl 5-dodecyl-2H-tetrazole-2-acetate | C(CCCCCCCCCCC)C=1N=NN(N1)CC(=O)OCC | C17H32N4O2
